* C:\Users\under\OneDrive - Universidad de Oviedo\Uni\Y2T1\TEC\PL\S6\Draft2.asc
V1 Ue 0 PULSE(0 5 1s 1ns 1ns 1s 2s)
R1 N001 Ue 20k
Q1 uce N001 0 0 QBD135
L1 Ub uce 2800mH Rser=400
V2 Ub 0 12V
D1 uce Ub MUR460
.model D D
.lib C:\Users\under\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\under\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 5s
.LIB BIPOLARES.LIB
.backanno
.end
